US07786108B2
Step 5. Preparation of 7-Ethyl-5-oxo-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepine-1,4-dicarboxylic acid 1-isopropyl ester 4-methyl ester
To a 0° C. cooled solution of 5-ethyl-2-[isopropoxycarbonyl-(3-methoxycarbonyl-propyl)-amino]-4-trifluoromethyl-benzoic acid methyl ester (39.72 g, 91.64 mmol) in toluene add potassium tert-butoxide (24.68 g, 219.92 mmol). Stir the mixture at room temperature for 30 min under an atmosphere of N2. Quench the mixture with 2 N HCl (150 mL) and dilute with ethyl acetate (1.5 L). Wash with water (2×400 mL) and brine (500 mL). Dry the organic layer over anhydrous sodium sulfate and filter through Celite to provide the title compound as a yellow viscous oil (31.25 g, 85%): TLC Rf 0.63 (3:1 hexanes/ethyl acetate); 1H NMR (CDCl3, 300 MHz) δ 1.0-1.40 (m, 9H), 2.31-2.55 (m, 2H), 2.88-2.94 (m, 1H), 3.75 (s, 3H), 3.89 (s, 3H), 4.89-4.93 (m, 1H), 5.11-5.12 (m, 1H), 7.43 (s, 1H), 7.91 (s, 1H).

reactant | 5-ethyl-2-[isopropoxycarbonyl-(3-methoxycarbonyl-propyl)-amino]-4-trifluoromethyl-benzoic acid methyl ester | 91.64 mmol, 39.72 g | COC(C1=C(C=C(C(=C1)CC)C(F)(F)F)N(CCCC(=O)OC)C(=O)OC(C)C)=O | C20H26F3NO6
reactant | potassium tert-butoxide | 219.92 mmol, 24.68 g | CC(C)([O-])C.[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 7-Ethyl-5-oxo-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepine-1,4-dicarboxylic acid 1-isopropyl ester 4-methyl ester | 31.25 g, 85% | COC(=O)C1C(C2=C(N(CC1)C(=O)OC(C)C)C=C(C(=C2)CC)C(F)(F)F)=O | C19H22F3NO5
